US06451816B1
N-(4-Piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide (Substance 21)
100 g (219.5 mmol) N-[4-(1-diphenylmethylpiperidin-4-yl)-butyl]-3-(pyridine-3-yl)-propionamide (substance 100) are dissolved in 500 ml ethanol and mixed with 8.0 g palladium (5%) on activated carbon (moistened with 40 ml water) and 25 ml conc. hydrochloric acid. The mixture is heated to ca. 45° C. and stirred under hydrogen atomosphere until consumption of the theoretical amount of hydrogen to be taken up (ca. five hours). After cooling, the catalyst is filtered and the solvent is removed under vacuum. The residue is taken up in 200 ml water and washed three times with a total of 200 ml CHCl3. The organic phases are discarded and the aqueous phase is made alkaline with 11 g sodium hydroxide and extracted three times, each with 100 ml CHCl3. After washing the organic phase with 30 ml water, the solvent is removed under vacuum. The oily residue is filtered over silica gel with CHCl3/CH3OH/NH4OH (80/20/2). Yield of the gradually hardening resin 53.0 g (83%).

reactant | N-[4-(1-diphenylmethylpiperidin-4-yl)-butyl]-3-(pyridine-3-yl)-propionamide | 219.5 mmol, 100 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C30H37N3O
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium | 8.0 g | [Pd] | Pd
product | N-(4-Piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide | N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O | C17H27N3O
